US05279764
0.1 mol of dicyclohexylcarbodiimide (DCC) dissolved in CH2Cl2 is added to 0.1 mol of 4'-pentyl-2,3-difluorobiphenyl-4-ol (which can be prepared from 4'-pentyl-2,3-difluoro-4-methoxy-biphenyl by ether cleavage with HBr/glacial acetic acid), 0.1 mol of trans-4-n-pentyl-cyclohexanecarboxylic acid and a catalytic amount of 4-N,N'-dimethylaminopyridine (DMAP) in 300 ml of CH2Cl2 at 0° C., with exclusion of moisture. The mixture is then stirred at room temperature for 12 hours, the dicyclohexylurea which has precipitated is separated off and the product is worked up in the customary manner. The product is purified by crystallization. 4'-Pentyl-2,3-difluorobiphenyl-4-yl trans-4-n-Pentylcyclohexanecarboxylate is obtained, C 44° N 159.1° I.

reactant | dicyclohexylcarbodiimide | 0.1 mol | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | 4'-pentyl-2,3-difluorobiphenyl-4-ol | 0.1 mol | C(CCCC)C1=CC=C(C=C1)C1=C(C(=C(C=C1)O)F)F | C17H18F2O
reactant | trans-4-n-pentyl-cyclohexanecarboxylic acid | 0.1 mol | C(CCCC)[C@@H]1CC[C@H](CC1)C(=O)O | C12H22O2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 300 ml | C(Cl)Cl | CH2Cl2
product | 4'-Pentyl-2,3-difluorobiphenyl-4-yl trans-4-n-Pentylcyclohexanecarboxylate | C(CCCC)[C@@H]1CC[C@H](CC1)C(=O)OC1=C(C(=C(C=C1)C1=CC=C(C=C1)CCCCC)F)F | C29H38F2O2
